US04960782
(i) 2,2',4'-Trifluoroacetophenone
1,3-Difluorobenzene (2.02 g; 17.7 mM) and anhydrous aluminium chloride (2.60 g; 19.47 mM) were stirred together under dry nitrogen at room temperature. A solution of fluoroacetyl chloride (1,71 g; 17.7 mM) in anhydrous methylene chloride (2 ml) was added over 30 minutes. The mixture was then warmed at about 50° for 3 hours. On cooling methylene chloride (40 ml) was added and the mixture was poured onto ice. The methylene chloride layer was separated, dried over magnesium sulphate and evaporated to give a white solid. This material was chromatographed on a column of silica eluting with a mixture of hexane/methylene chloride (65:35 by volume). The product-containing fractions were collected. The title compound crystallised on evaporation of these fractions and was dried in a vacuum desiccator to a colourless crystalline solid (1.12 g; 36% yield), melting point 57°-8°.

reactant | 1,3-Difluorobenzene | 17.7 mM, 2.02 g | FC1=CC(=CC=C1)F | C6H4F2
reactant | aluminium chloride | 19.47 mM, 2.60 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | fluoroacetyl chloride | 17.7 mM, 1,71 g | FCC(=O)Cl | C2H2ClFO
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 2,2',4'-Trifluoroacetophenone | 36% yield | FCC(=O)C1=C(C=C(C=C1)F)F | C8H5F3O
